US09403839B2
Methyl 5-isopropoxy-6-methylpicolinate (1.3 g, 6.22 mmol) was dissolved in THF/water 2:1 (9 mL). LiOH*H2O (0.26 g, 6.22 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was poured into a mixture of water and EtOAc and the layers were separated. The aqueous layer was acidified to pH 4 with 2 N HCl and was extracted with EtOAc (2×). The combined organics were dried (Na2SO4) and concentrated to give 5-isopropoxy-6-methylpicolinic acid (860 mg, 74%) as a beige solid. 1H-NMR (300 MHz, DMSO) 1.31 (d, 6H), 4.73 (m, 1H), 7.44 (d, 1H), 7.86 (d, 1H).

reactant | Methyl 5-isopropoxy-6-methylpicolinate | 6.22 mmol, 1.3 g | C(C)(C)OC=1C=CC(=NC1C)C(=O)OC | C11H15NO3
reactant | LiOH | 6.22 mmol, 0.26 g | [Li+].[OH-]
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF water | 9 mL | C1CCOC1.O
product | 5-isopropoxy-6-methylpicolinic acid | 860 mg, 74% | C(C)(C)OC=1C=CC(=NC1C)C(=O)O | C10H13NO3
